US09212171B2
Step 2: (RS)-1,5,5-Trimethyl-3-(5-(phenylethynyl)pyridin-2-yl)pyrrolidin-2-one
A solution of (RS)-3-(5-iodopyridin-2-yl)-1,5,5-trimethylpyrrolidin-2-one (140 mg, 0.42 mmol), ethynylbenzene (65.0 mg, 69.9 μl, 0.64 mmol), triethylamine (129 mg, 177 μl, 1.27 mmol), bis(triphenylphosphine)palladium (II) chloride (17.9 mg, 25.4 μmol) and triphenylphosphine (3.34 mg, 12.7 μmol) in 4 ml of THF was purged with argon. Then copper (I) iodide (2.42 mg, 12.7 μmol) was added and the reaction was heated for 3 h at 60° C. After extraction with ethyl acetate/water, drying over sodium sulfate and concentration; the residue was taken up in ethyl acetate, adsorbed onto 3 g of silicagel which was loaded onto a 20 g prepacked flash chromato-graphy column. After elution with a 0% to 65% ethyl acetate in heptane gradient, the fractions containing the desired product were collected to yield 103 mg (72%) of the title compound as an amorphous yellow solid, MS: m/e=305.2 (M+H+).

reactant | (RS)-3-(5-iodopyridin-2-yl)-1,5,5-trimethylpyrrolidin-2-one | 0.42 mmol, 140 mg | IC=1C=CC(=NC1)C1C(N(C(C1)(C)C)C)=O | C12H15IN2O
reactant | ethynylbenzene | 0.64 mmol, 69.9 μl, 65.0 mg | C(#C)C1=CC=CC=C1 | C8H6
reactant | triethylamine | 1.27 mmol, 177 μl, 129 mg | C(C)N(CC)CC | C6H15N
solvent | THF | 4 ml | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 25.4 μmol, 17.9 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper (I) iodide | 12.7 μmol, 2.42 mg | [Cu]I
catalyst | triphenylphosphine | 12.7 μmol, 3.34 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | (RS)-1,5,5-Trimethyl-3-(5-(phenylethynyl)pyridin-2-yl)pyrrolidin-2-one | 103 mg, 72% | CN1C(C(CC1(C)C)C1=NC=C(C=C1)C#CC1=CC=CC=C1)=O | C20H20N2O
